US07067517B2
Methyl-phenyl-carbamic acid benzotriazol-1-yl ester
The title compound was prepared from 1-hydroxybenzotriazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (98%, crystallizes slowly).

reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid benzotriazol-1-yl ester | N1(N=NC2=C1C=CC=C2)OC(N(C2=CC=CC=C2)C)=O | C14H12N4O2
